US06924391B2
2,3-Epoxy-4-[4-(tert-butoxycarbonyl)phenoxy]butane
A solution of trans-4-[4-(tert-butoxycarbonyl)phenoxy]-2-butene (3.10 g, 12.48 mmol) in dry dichloromethane (50 ml) was treated at 22° C. with 3-chloroperoxybenzoic acid (4.30 g, 24.9 mmol) and the resulting mixture was stirred at 22° C. for 18 hours. The mixture was then diluted with toluene, washed with 5% sodium thiosulfate, saturated sodium bicarbonate and brine. After drying (sodium sulfate), evaporation of the solvent gave an oil that was chromatographed on silica gel. Elution with a mixture of toluene and ethyl acetate (95:5) gave 3.16 g (96%) of the title material as an oil which solidified upon standing: bp 85-90° C./0.05 torr (bulb to bulb, air bath temperature); mp 47-48° C.

reactant | trans-4-[4-(tert-butoxycarbonyl)phenoxy]-2-butene | 12.48 mmol, 3.10 g | C(C)(C)(C)OC(=O)C1=CC=C(OC/C=C/C)C=C1 | C15H20O3
reactant | 3-chloroperoxybenzoic acid | 24.9 mmol, 4.30 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-Epoxy-4-[4-(tert-butoxycarbonyl)phenoxy]butane | 3.16 g, 96% | O1C(C)C1COC1=CC=C(C=C1)C(=O)OC(C)(C)C | C15H20O4
